US06005093
The intermediate 7-glycidyl coumarin was prepared in a reaction flask equipped with a reflux condenser containing 16.2 g of 7-hydroxycoumarin, 15.8 g of epibromohydrin, 13.8 g of potassium carbonate and 270 ml of acetone ("reaction solution"). The reaction solution was boiled and refluxed overnight, cooled, treated with 100 ml of 5% NaOH aqueous solution, and extracted three times with 80 ml of methylene chloride. After evaporating the solvent a crude yellow solid was obtained. The crude solid (1.5 g) was dissolved in a solution of 30 ml hexane and 20 ml acetone at 50° C. The hexane/acetone solution was then cooled at 0° C. for 2 to 3 hours. White crystals formed and were collected by filtering and dried to a white powder. 290 mg of white powder was obtained. The melting point of this new compound (7-glycidyl coumarin) was 110-112° C. Thin layer chromatography (TLC) was done in 8% (v/v ethyl acetate/CHCl3 ; the Rf value of the 7-glycidyl coumarin was 0.6.

reactant | 7-hydroxycoumarin | 16.2 g | OC1=CC=C2C=CC(OC2=C1)=O | C9H6O3
reactant | epibromohydrin | 15.8 g | C(Br)C1CO1 | C3H5BrO
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | NaOH | 100 ml | [OH-].[Na+]
solvent | hexane | 30 ml | CCCCCC | C6H14
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | acetone | 270 ml | CC(=O)C | C3H6O
solvent | hexane acetone | CCCCCC.CC(=O)C
product | 7-glycidyl coumarin | C(C1CO1)C1=CC=C2C=CC(OC2=C1)=O | C12H10O3
